US07700641B2
Synthesis of 4′-(6-fluoropyridin-3-yl)-1′-methylspiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one
Following the procedure as described in EXAMPLE 4.14, and making non-critical variations using 4′-bromo-1′-methylspiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one to replace 4′-bromo-1′-{[5-(trifluoromethyl)-2-furyl]methyl}-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one, and (6-fluoropyridin-3-yl)boronic acid to replace pyrimidine-5-boronic acid, the title compound was obtained (100%) as a colorless solid: 1H NMR (300 MHz, CDCl3) δ 7.75-7.65 (m, 1H), 7.42-7.30 (m, 1H), 7.19-7.05 (m, 1H), 7.00-6.90 (m, 1H), 6.90-6.80 (m, 1H), 6.78-6.64 (m, 1H), 6.24-6.12 (m, 2H), 5.92-5.79 (m, 2H), 4.74-4.63 (m, 1H), 4.40-4.29 (m, 1H), 3.34-3.26 (m, 3H); MS (ES+) m/z 391.4 (M+1).

reactant | 4′-bromo-1′-methylspiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | BrC1=C2C3(C(N(C2=CC=C1)C)=O)COC=1C3=CC3=C(OCO3)C1 | C17H12BrNO4
reactant | 4′-bromo-1′-{[5-(trifluoromethyl)-2-furyl]methyl}-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one | BrC1=C2C3(C(N(C2=CC=C1)CC=1OC(=CC1)C(F)(F)F)=O)C1=C(OC3)C=C3OCCC3=C1 | C23H15BrF3NO4
reactant | (6-fluoropyridin-3-yl)boronic acid | FC1=CC=C(C=N1)B(O)O | C5H5BFNO2
reactant | pyrimidine-5-boronic acid | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
product | 4′-(6-fluoropyridin-3-yl)-1′-methylspiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | FC1=CC=C(C=N1)C1=C2C3(C(N(C2=CC=C1)C)=O)COC=1C3=CC3=C(OCO3)C1 | C22H15FN2O4
